US07795315B2
(E)-[2-(3-{4-[[tert-Butoxycarbonyl-(2-morpholin-4-yl-propyl)-amino]-(4-isopropyl-phenylcarbamoyl)-methyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester
To a solution of (E)-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-[tert-butoxycarbonyl-(2-morpholin-4-yl-propyl)-amino]-acetic acid (306 mg, 0.480 mmol) and bromo-tris-pyrrolidino-phosphoniumhexafluorophosphate (447 mg, 0.960 mmol) in anhydrous dichloromethane (5 mL) was added diisopropylethylamine (0.167 mL, 0.960 mmol) followed by 4-isopropylaniline (0.131 mL, 0.960 mmol). After stirring at room temperature overnight, the reaction was diluted to 15 mL with dichloromethane, washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo to afford crude product. This material was used without further purification. MS: calc'd 756 (MH+), exp 756 (MH+).

reactant | (E)-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-[tert-butoxycarbonyl-(2-morpholin-4-yl-propyl)-amino]-acetic acid | 0.480 mmol, 306 mg | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)/C=C/C1=CC=C(C=C1)C(C(=O)O)N(CC(C)N1CCOCC1)C(=O)OC(C)(C)C | C34H46N4O8
reactant | bromo-tris-pyrrolidino-phosphoniumhexafluorophosphate | 0.960 mmol, 447 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropylethylamine | 0.960 mmol, 0.167 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-isopropylaniline | 0.960 mmol, 0.131 mL | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (E)-[2-(3-{4-[[tert-Butoxycarbonyl-(2-morpholin-4-yl-propyl)-amino]-(4-isopropyl-phenylcarbamoyl)-methyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CC=C(C=C1)C(C(NC1=CC=C(C=C1)C(C)C)=O)N(CC(C)N1CCOCC1)C(=O)OC(C)(C)C)=O)=O | C43H57N5O7
